Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Rifabutin
 
Attending: ___.
 
Chief Complaint:
PNA
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with pulmonary mycobacterium avium infection with 
bronchiectasis, RA on Areva and Plaquenil p/w PNA. She was seen 
by her PCP in clinic yesterday for symptoms of cough. She states 
that she was having cough, rhinorrhea, and subjective fevers and 
she presented to her PCP who ordered ___ CXR which showed a new 
infiltrate c/w PNA so she was referred into the ED. Of note, the 
patient has remained on a 3 drug regimen for suppression of the 
___ for nearly ___ years. She is followed by Dr. ___ Dr. 
___. She is followed by Dr. ___ the RA. She 
developed a positive sputum for ___
beginning in ___ after starting methotrexate for the RA. 
Dr. ___ replaced the MTX with Areva and Plaquenil in 
order to reduce the level of immunoppression to better treat the 
___. However Ms. ___ outpatient physicians are trying to 
further reduce the level of immunoppression by switching her to 
gold therapy. 
   In the ED, VS: 97.8  150/98  103 23  98 RA. She was given 
levofloxacin for PNA.
 
Past Medical History:
1)MAC infection, followed by Dr. ___, on ethambutol, 
rifabutin, clarithromycin. (ethambutol uveitis)  
2) Presyncopal episodes in ___, cardiac workup unrevealing  
2) Rheumatoid Arthritis  
3) Bronchiectasis  
4) Hypothyroidism  
5) Urge incontinence  
6) s/p mechanical fall in ___  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
VS:  Temp: 97.3  BP: 126/74   HR: 74   RR: 20  O2sat: 97 RA
.
Gen:  Up and walking around her room looking comfortable and 
energetic
HEENT:  PERRL, EOMI.
Neck:  Supple, no LAD, no JVP elevation.
Lungs: CTA bilaterally, no wheezes, rales, rhonchi.  Normal 
respiratory effort.
CV:  RRR, no murmurs, rubs, gallops.
Abdomen:  soft, NT, ND, NABS, no HSM.
Extremities:  warm and well perfused, no cyanosis, clubbing, 
edema.
Neurological: alert and oriented X 3
Skin:  No rashes or ulcers.
Psychiatric:  Appropriate.

 
Pertinent Results:
Labs on admission:
___ 09:40PM BLOOD WBC-10.0 RBC-3.82* Hgb-11.7* Hct-34.1* 
MCV-89 MCH-30.7 MCHC-34.3 RDW-13.3 Plt ___
___ 09:40PM BLOOD Neuts-74.4* ___ Monos-4.4 Eos-1.0 
Baso-0.1
___ 09:40PM BLOOD Glucose-149* UreaN-20 Creat-1.3* Na-131* 
K-3.8 Cl-96 HCO3-24 AnGap-15
___ 09:40PM BLOOD Lactate-1.6
.
Labs on discharge:
___ 07:50AM BLOOD WBC-8.2 RBC-3.66* Hgb-11.1* Hct-33.0* 
MCV-90 MCH-30.3 MCHC-33.6 RDW-12.8 Plt ___
___ 07:50AM BLOOD Creat-0.9 Na-138
.
Microbiology:
Blood culture ___:  No growth to date
.
Imaging:
___ Chest x-ray:
IMPRESSION: Increasing opacification of the left lower lobe 
consolidation.
 
Brief Hospital Course:
The patient is an ___ year old woman with pulmonary mycobacterium 
avium infection with bronchiectasis and Rheumatoid arthritis on 
Areva and Plaquenil who presented with fever and mild cough. 
Chest x-ray on admission showed new small infiltrate oncerning 
for pneumonia with repeat chest x-ray the following day after IV 
fluid hydration showing increased left lower lobe opacification 
confirming a pneumonia. 
Given these findings, she was treated with levofloxacin with 
instructions to complete a 5 day course.
She clinically appeared quite well throughout her hospital stay, 
and maintained good oxygen saturation both at rest and with 
ambulation.  She denied any shortness of breath.
Of note, prior to discharge, she did have an episode of 
dizziness, nausea, at which time her blood pressure was noted to 
be low.  She was given IV fluids with quick resolution of her 
symptoms and this was attributed to a likely vagal reaction (she 
was in the restroom at time of onset of the symptoms).
She was discharged with follow up with her primary care 
physician, at which time she should have a repeat chest x-ray to 
ensure clearance of her pneumonia.
.
Of note, her family is also concerned regarding her lack of 
appetite and weight loss, which I instructed them to address 
with her primary care physician.
.
In regards to the pulmonary ___ and bronchiectasis: She is on  3 
drug regimen: azithromycin, ethambutol, and rifampin. This was 
continued during this hospitalization. 
.
Her other medical issues remained stable throughout her hospital 
course.
 
Medications on Admission:
AZITHROMYCIN - 250 mg Tablet - 1 Tablet(s) by mouth once a day
BIMATOPROST [LUMIGAN] -  (Prescribed by Other Provider) - Dosage
uncertain
BRIMONIDINE [ALPHAGAN P] -  (Prescribed by Other Provider) -
Dosage uncertain
DORZOLAMIDE-TIMOLOL [COSOPT] -  (Prescribed by Other Provider) -
Dosage uncertain
ETHAMBUTOL - 400 mg Tablet - 2 Tablet(s) by mouth once a day 
take
with 1 100mg (100mg total) tablets of Ethambutol, for 900mg 
total
per day
ETHAMBUTOL - 100 mg Tablet - 1 Tablet(s) by mouth once a day 
take
with 2 400mg tablets (800mg) of Ethambutol, for 900mg total
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 100 mcg-50 mcg/Dose 
Disk
with Device - one inhalation twice a day
FOLIC ACID - 1 mg Tablet - 1 Tablet(s) by mouth daily
HYDROXYCHLOROQUINE - 200 mg Tablet - 1 Tablet(s) by mouth bid or
qd alternating take 2 on even days of the month, 1 on odd days
(total dose: 5.7 mg/kg/day
IODOQUINOL-HC -  (Not Taking as Prescribed) - 1 %-1 % Cream -
apply to affected area twice a day
LEFLUNOMIDE - 10 mg Tablet - 1 Tablet(s) by mouth 1 qd
LEVOTHYROXINE [LEVOXYL] - 150 mcg Tablet - 1 Tablet(s) by mouth
once a day NO generic/substitution - No Substitution
LISINOPRIL - 5 mg Tablet - 1 Tablet(s) by mouth once a day
RIFAMPIN - 300 mg Capsule - 2 Capsule(s) by mouth once a day
SIMVASTATIN - 20 mg Tablet - 1 Tablet(s) by mouth at bedtime
TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] -  (Not Taking as
Prescribed) - 18 mcg Capsule, w/Inhalation Device - Contents of
one capsule inhaled once a day
TRAMADOL - 50 mg Tablet - 1 Tablet(s) by mouth qd to bid as
needed for prn pain
ACETAMINOPHEN [TYLENOL EXTRA STRENGTH] - 500 mg Tablet - 1 (One)
Tablet(s) by mouth twice a day as needed for pain
CALCIUM-CHOLECALCIFEROL (D3) [CALCIUM 500 WITH VITAMIN D] - 
(Prescribed by Other Provider: Dr. ___ patient not
taking at previously prescribed dosing frequency of twice a day)
- 500 mg (1,250 mg)-200 unit Tablet - 1 Tablet(s) by mouth once 
a
day
FERROUS SULFATE -  (Not Taking as Prescribed) - 325 mg (65 mg
Elemental Iron) Tablet - 1 Tablet(s) by mouth once a day
FLAXSEED OIL -  (OTC) - 1,000 mg Capsule - 1 Capsule(s) by mouth
daily
OMEGA-3 FATTY ACIDS [FISH OIL] -  (OTC) - 1,000 mg Capsule - 1
Capsule(s) by mouth daily
 
Discharge Medications:
1. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO once a 
day for 4 days.
Disp:*12 Tablet(s)* Refills:*0*
2. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
3. Dorzolamide-Timolol ___ % Drops Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
4. Ethambutol 400 mg Tablet Sig: Nine Hundred (900) mg PO DAILY 
(Daily).  
5. Fluticasone-Salmeterol 100-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Rifampin 300 mg Capsule Sig: Two (2) Capsule PO Q24H (every 
24 hours).  
9. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
11. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Hydroxychloroquine 200 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day): Alternate with 200 MG every other day.  
13. Leflunomide 10 mg Tablet Sig: One (1) Tablet PO daily ().  
14. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
Excellent

 
Discharge Instructions:
You were treated with Levofloxacin for possible bacterial 
pneumonia. please call your primary care doctor if you develop 
recurrent high fevers, chest pain, shortness of breath, or any 
new concerning symptoms. 

Please follow up with appointments as directed.
 
Followup Instructions:
___